US05037186
20 g of poly(γmethyl L-glutamate)(molecular weight: 150000; average degree of polymerization: 1050) was dissolved in 300 ml of a 1,2-dichloroethane/tetrachloroethylene(8/2) mixed solvent. To the resulting solution were added 100 ml of n-hexanol and 5 g of p-toluenesulfonic acid. The reaction was allowed to proceed at 60° C. for 20 hr. The reaction mixture was poured into a large amount of methanol to precipitate the formed polymer. The polymer was collected and dried. Subsequently, the polymer was dissolved in 1,2-dichloroethane again, reprecipitated with methanol, filtered and dried to obtain a purified γ-methyl L-glutamate/γ-hexyl L-glutamate copolymer. The ratio of the methyl ester to the hexyl ester in the copolymer was determined by NMR and was found to be 51:49.

reactant | L-glutamate | 20 g | N[C@@H](CCC(=O)[O-])C(=O)[O-]
reactant | n-hexanol | 100 ml | C(CCCCC)O | C6H14O
reactant | p-toluenesulfonic acid | 5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | CO | CH4O
product | γ-methyl L-glutamate γ-hexyl L-glutamate | CC(=O)OCC[C@@H](C(=O)O)N.N[C@@H](CCC(=O)[O-])C(=O)OC(CC)CCC | InChI=1S/C11H21NO4.C6H11NO4/c1-3-5-8(4-2)16-11(15)9(12)6-7-10(13)14;1-4(8)11-3-2-5(7)6(9)10/h8-9H,3-7,12H2,1-2H3,(H,13,14);5H,2-3,7H2,1H3,(H,9,10)/p-1/t8?,9-;5-/m00/s1
